US04567186
C-2. 6-[2-(Dimethylamino)ethenyl]-5-(2-thienylcarbonyl)-2(1H)-pyridinone--To a mixture containing 57.8 g of 6-methyl-5-(2-thienylcarbonyl)-2(1H)-pyridinone in 400 ml of p-dioxane was added with stirring 62 g of bis(dimethylamino)-t-butoxymethane and the resulting reaction mixture was heated on a steam bath for 2 and 1/2 hours and then cooled. The separated product was collected, washed with isopropyl alcohol, dried in a vacuum oven at 90° C. to yield 70.1 g of 6-[2-dimethylamino)ethenyl]-5-(2-thienylcarbonyl)-2(1H)-pyridinone, m.p. 248°-250° C.

reactant | 6-methyl-5-(2-thienylcarbonyl)-2(1H)-pyridinone | 57.8 g | CC1=C(C=CC(N1)=O)C(=O)C=1SC=CC1 | C11H9NO2S
reactant | bis(dimethylamino)-t-butoxymethane | 62 g | CN(C)C(OC(C)(C)C)N(C)C | C9H22N2O
solvent | p-dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 5-(2-thienylcarbonyl)-2(1H)-pyridinone | S1C(=CC=C1)C(=O)C=1C=CC(NC1)=O | C10H7NO2S
